US06331640B1
A solution of 4-bromo-2-chlorobenzoic acid (2.00 g, 8.5 mmol), N-hydroxysuccinimide (1.07 g, 9.3 mmol) and EDCI (1.79 g, 9.3 mmol) in tetrahydrofuran/N,N-dimethylformamide (3:1; 40 mL) was stirred at room temperature for 18 h. The reaction was concentrated and water (50 mL) was added. The mixture was extracted with ethyl acetate (3×50 mL) and the combined organic layers were washed with brine, dried (Na2SO4), concentrated, and dried in vacuo to give 1-[(4-bromo-2-chlorobenzoyl)oxy]-2,5-pyrrolidinedione (2.59 g, 92%) as an off-white solid which was used directly in the next step without further purification.

reactant | 4-bromo-2-chlorobenzoic acid | 8.5 mmol, 2.00 g | BrC1=CC(=C(C(=O)O)C=C1)Cl | C7H4BrClO2
reactant | N-hydroxysuccinimide | 9.3 mmol, 1.07 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | EDCI | 9.3 mmol, 1.79 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | tetrahydrofuran N,N-dimethylformamide | 40 mL | O1CCCC1.CN(C=O)C
product | 1-[(4-bromo-2-chlorobenzoyl)oxy]-2,5-pyrrolidinedione | 2.59 g, 92% | BrC1=CC(=C(C(=O)ON2C(CCC2=O)=O)C=C1)Cl | C11H7BrClNO4
